US05488055
A mixture of N-(1-ethylpyrazol-5-yl)-4-carboxyanthranilic acid (2.5 g) and POCl3 (20 ml) was refluxed overnight. The reaction mixture was poured into water, acidified with acetic acid and the solids which formed were collected by filtration. The solid was taken up in 10% NaOH, washed with ether and then the aqueous layer was acidified with concentrated HCl. The mixture was extracted with ether, the ether layer was dried over MgSO4 filtered and evaporated to afford 1 g of 1-ethyl-4-chloro-7-carboxy-1H-pyrazolo[3,4-b]quinoline, as a yellow powder.

reactant | N-(1-ethylpyrazol-5-yl)-4-carboxyanthranilic acid | 2.5 g | C(C)N1N=CC=C1NC=1C(C(=O)O)=CC=C(C1)C(=O)O | C13H13N3O4
reactant | POCl3 | 20 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-ethyl-4-chloro-7-carboxy-1H-pyrazolo[3,4-b]quinoline | 1 g | C(C)N1N=CC=2C1=NC1=CC(=CC=C1C2Cl)C(=O)O | C13H10ClN3O2
